US04138485
Preparation of N-(2,5-dimethylbenzylthiocarbonyl)-L-phenylalanine methylester
10.8 G (0.05 mol) of L-phenylalanine methylester hydrochloride was added to 100 ml of chloroform. To the mixture was added 13.9 ml (0.1 mol) of triethylamine while cooling with ice. 20 Ml of a chloroform solution containing 3.0 g (0.05 mol) of carbonyl sulfide was dropwise added to the solution at a temperature of from 5° to 10° C. in 20 minutes. After stirring at the same temperature for 30 minutes, 30 ml of chloroform solution containing 7.7 g (0.05 mol) of 2.5-dimethylbenzylchloride was dropwise added to the solution in 30 minutes. After this, the mixture was stirred at room temperature for 1 hour. After completion of reaction, the reaction mixture was washed with 100 ml of water, 100 ml of 2N-hydrochloric acid and 150 ml of water in order twice and was dried over anhydrous sodium sulfate in a similar manner to that described in Example 2. After filtration of the drying agent, the syrup-like substance obtained by removing the solvent of the filtrate in vacuo was crystallized from 30 ml of ethylacetate and 50 ml of n-hexane to yield 10.8 g of white crystals.

reactant | L-phenylalanine methylester hydrochloride | 0.05 mol | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | triethylamine | 0.1 mol, 13.9 ml | C(C)N(CC)CC | C6H15N
reactant | carbonyl sulfide | 0.05 mol, 3.0 g | C(=O)=S | COS
reactant | 2.5-dimethylbenzylchloride | 0.05 mol, 7.7 g | CC1=C(CCl)C=C(C=C1)C | C9H11Cl
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2,5-dimethylbenzylthiocarbonyl)-L-phenylalanine methylester | 10.8 g, Yield: 60.5% | COC([C@@H](NC(=S)CC1=C(C=CC(=C1)C)C)CC1=CC=CC=C1)=O | C20H23NO2S
